US06900215B2
3-Bromo-7-(1,1-difluoroethyl)imidazo[1,2-α]pyrimidine (130 mg, 0.50 mmol) was coupled with 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 5′-[7-(1,1-difluoroethyl)imidazo[1,2-α]pyrimidin-3-yl]-2′-fluorobiphenyl-2-carbonitrile (45 mg, 24%) as a white powder: δH (400 MHz, CDCl3) 2.15 (3H, t, J 21), 7.34 (1H, d, J 7), 7.43 (1H, t, J 9), 7.53-7.74 (5H, m), 7.86 (1H, dd, J 8 and 1), 7.99 (1H, s), 8.95 (1H, d, J 7); m/z (ES+) 379 (M++H).

reactant | 3-Bromo-7-(1,1-difluoroethyl)imidazo[1,2-α]pyrimidine | 0.50 mmol, 130 mg | BrC1=CN=C2N1C=CC(=N2)C(C)(F)F | C8H6BrF2N3
reactant | 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)C#N | C19H19BFNO2
product | 5′-[7-(1,1-difluoroethyl)imidazo[1,2-α]pyrimidin-3-yl]-2′-fluorobiphenyl-2-carbonitrile | 45 mg, 24% | FC(C)(F)C1=NC=2N(C=C1)C(=CN2)C=2C=CC(=C(C2)C=2C(=CC=CC2)C#N)F | C21H13F3N4
